US07994164B2
1-Bromo-3-fluorobenzyl bromide
To a solution of 1-bromo-3-fluorobenzyl alcohol (1.61 kg, 7.85 mol) in chloroform (14 L) at 0° C. add pyridine (770 mL, 9.52 mol) in one portion (slight exotherm) and stir at 0° C. for 5 min. Add phosphorus tribromide (900 mL, 9.49) dropwise while maintaining the internal temperature below 20° C. and stir the resulting solution overnight while allowing to warm to room temperature. Cool the reaction to 0° C. and quench slowly with ice water (2 L). Transfer to a 50 L flask, separate the layers and then extract the aqueous layer with chloroform (1 L). Wash the combined organic phases with 5% sulfuric acid (2 L), saturated aqueous sodium bicarbonate (2 L), brine (2 L), dry over magnesium sulfate, filter, and concentrate to obtain the title compound as a yellow oil (1753 g, 83%). 1H NMR (CDCl3) δ 7.43 (d, 1H), 7.21 (m, 1H), 7.09 (t, 1H), 4.68 (s, 2H).

reactant | 1-bromo-3-fluorobenzyl alcohol | 7.85 mol, 1.61 kg | BrC1(CO)CC(=CC=C1)F | C7H8BrFO
reactant | pyridine | 9.52 mol, 770 mL | N1=CC=CC=C1 | C5H5N
reactant | phosphorus tribromide | 900 mL | P(Br)(Br)Br | Br3P
solvent | chloroform | 14 L | C(Cl)(Cl)Cl | CHCl3
product | 1-Bromo-3-fluorobenzyl bromide | 1753 g, 83% | BrC1(CBr)CC(=CC=C1)F | C7H7Br2F
